US05972972
A. 2-hydroxymethyl-4-methoxypyridine
The 4-methoxypyridine--N-oxide (6.3 g, 0.05 mol) was suspended in 150 ml of dichloromethane (CH2Cl2). Trimethyloxoniumtetrafluoroborate (7.5 g, 0.05 mol) was added all at once and the reaction was stirred at room temperature for 2 hrs. After evaporation of the solvent, the residue was dissolved in methanol (150 ml) and heated to reflux. To this solution was added of ammonium persulfate (2.3 g) in 20 ml of water. After 30 min. a further portion of 1.2 g of persulfate in 5 ml of water was added. After refluxing for one hour the solution was cooled and concentrated under vacuum. The residue was chromatographed over silica with 9:1 chloroform/methanol to give 3.52 g (51% yield) of the subtitle compound.

reactant | 4-methoxypyridine--N-oxide | 0.05 mol, 6.3 g | COC1=CC=[N+](C=C1)[O-] | C6H7NO2
reactant | Trimethyloxoniumtetrafluoroborate | 0.05 mol, 7.5 g | F[B-](F)(F)F.C[O+](C)C
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2-hydroxymethyl-4-methoxypyridine | 3.52 g, 51% yield | OCC1=NC=CC(=C1)OC | C7H9NO2
